US08067445B2
Step 2: {2′-[1-Ethyl-3-(4-hydroxy-benzyl)-ureidomethyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid
{2′-[1-Ethyl-3-(4-hydroxy-benzyl)-ureidomethyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}acetic acid ethyl ester (0.535 g, 0.98 mmol) in THF (5 mL) and EtOH (4 mL) was treated with 1N aqueous NaOH (3 mL), and the reaction was stirred for 2.5 hours. Analytical LCMS indicated that starting material was still present, so additional 1N aqueous NaOH was added, and the reaction was heated with a heat gun. Once no starting material was seen by analytical LCMS, the mixture was worked-up with CH2Cl2 and 1N aqueous HCl, and the organic layer was dried over MgSO4, filtered, and concentrated to give the title compound. M+H is 517.

reactant | {2′-[1-Ethyl-3-(4-hydroxy-benzyl)-ureidomethyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}acetic acid ethyl ester | 0.98 mmol, 0.535 g | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(C(=O)NCC1=CC=C(C=C1)O)CC)=O | C29H31F3N2O5
reactant | NaOH | 1N, 3 mL | [OH-].[Na+]
reactant | NaOH | 1N | [OH-].[Na+]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | HCl | 1N | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOH | 4 mL | CCO | C2H6O
product | {2′-[1-Ethyl-3-(4-hydroxy-benzyl)-ureidomethyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid | C(C)N(C(=O)NCC1=CC=C(C=C1)O)CC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC=C1OC)CC(=O)O | C27H27F3N2O5
